US06906072B1
Reference Example 40 3-(1.3-dioxolan-2-yl)-2-thiophenecarboaldehyde
5.00 g (32.0 mmol) of 3-(1,3-dioxolan-2-yl)thiophene was dissolved in 100 ml of THF. 24.5 ml (1.5 mol/l) of n-butyllithium was added dropwise thereinto. After stirring for 0.5 hour, the mixture was cooled to −70° C., 3.10 ml (40.0 mmol) of DMF was added, and then the mixture was transferred to an ice bath. After stirring for about 2 hours, an aqueous saturated ammonium chloride was added, and the mixture was extracted with ethyl acetate. The extract was washed with brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, to give a crude product. The crude product was subjected to silica gel (ethyl acetate:hexane=1:2), to give 3.68 g (20.0 mmol, 62.4%) of the title compound as a yellow oil.

reactant | 3-(1,3-dioxolan-2-yl)thiophene | 32.0 mmol, 5.00 g | O1C(OCC1)C1=CSC=C1 | C7H8O2S
reactant | n-butyllithium | 1.5 mol/l, 24.5 ml | C(CCC)[Li]
reactant | DMF | 40.0 mmol, 3.10 ml | CN(C)C=O | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-(1.3-dioxolan-2-yl)-2-thiophenecarboaldehyde | 20.0 mmol, 3.68 g, 62.4% | O1C(OCC1)C1=C(SC=C1)C=O | C8H8O3S
